US05646143
5(S)-Amino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[3,4-di(3-methoxy-propyloxy)phenyl]-octanoic acid (N-butyl)amide hydrochloride
Analogously to Example 1, the title compound is prepared starting from 66 mg of 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[3,4-di(3-methoxypropyloxy)phenyl]-octanoic acid (N-butyl)amide. This yields the tide compound: Rf (dichloromethane/methanol=9:1)=0.21; Rt (I)=40.0 minutes; FAB-MS (M+H)+ =539.

reactant | 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[3,4-di(3-methoxypropyloxy)phenyl]-octanoic acid (N-butyl)amide | 66 mg | C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OCCCOC)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C35H62N2O8
reactant | dichloromethane methanol | ClCCl.CO
product | 5(S)-Amino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[3,4-di(3-methoxy-propyloxy)phenyl]-octanoic acid (N-butyl)amide hydrochloride | Cl.C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OCCCOC)OCCCOC)C(C)C)N)O)C)=O | InChI=1S/C30H54N2O6.ClH/c1-7-8-13-32-30(34)23(4)18-27(33)26(31)21-25(22(2)3)19-24-11-12-28(37-16-9-14-35-5)29(20-24)38-17-10-15-36-6;/h11-12,20,22-23,25-27,33H,7-10,13-19,21,31H2,1-6H3,(H,32,34);1H/t23-,25+,26+,27+;/m1./s1
